US03985880
α-Ethyl-α-methyl-2-perimidinemethanol hydrochloride
1,8-Diaminonaphthalene (44.5 g, 0.282 mole) is suspended in 400 ml of 4N hydrochloric acid. To this suspension is added 2-hydroxy-2-methyl butyric acid (50 g, 0.423 mole) and the whole is stirred and heated under reflux for 96 hours. Then the reaction mixture is allowed to cool and is filtered, yielding a gray-green solid. The solid is heated and stirred with 1 liter of refluxing ethanol, and is filtered while hot to remove unreacted starting materials. The filtrate is concentrated to dryness and the resulting solid is treated with 500 ml of boiling ethanol. After the insoluble material is removed by filtration, the filtrate was treated with charcoal, yielding a yellow solution. Addition of ether, plus cooling, yields a yellow-brown solid. Recrystallization from ethanol (charcoal) yields the desired product, α-ethyl-α-methyl-2-perimidinemethanol, hydrochloride, m.p. 266°-268° dec.).

reactant | 1,8-Diaminonaphthalene | 0.282 mole, 44.5 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | 2-hydroxy-2-methyl butyric acid | 0.423 mole, 50 g | OC(C(=O)O)(CC)C | C5H10O3
reactant | ethanol | 1 liter | C(C)O | C2H6O
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | 4N, 400 ml | Cl | ClH
product | α-ethyl-α-methyl-2-perimidinemethanol, hydrochloride | Cl.C(C)C(O)(C=1NC=2C=CC=C3C=CC=C(N1)C23)C | InChI=1S/C15H16N2O.ClH/c1-3-15(2,18)14-16-11-8-4-6-10-7-5-9-12(17-14)13(10)11;/h4-9,18H,3H2,1-2H3,(H,16,17);1H
